US06372917B1
c) Sodium 2-bromo-5-methylbenzenesulfinate
49.6 g of 2-bromo-5-methylbenzenesulfinic acid are dissolved in 400 ml of methanol and treated with an equimolar amount of NaOH in 50 ml of water. The mixture is stirred at RT for 3 hours, the solution is filtered off and subsequently the solvents are removed in vacuo. Finally, water residues are removed azeotropically with 50 ml of toluene. The solid residue is dried over P4O10 in vacuo and 54.0 g of product are obtained, mp 288-290° C. (with decomposition).

reactant | 2-bromo-5-methylbenzenesulfinic acid | 49.6 g | BrC1=C(C=C(C=C1)C)S(=O)O | C7H7BrO2S
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | Sodium 2-bromo-5-methylbenzenesulfinate | BrC1=C(C=C(C=C1)C)S(=O)[O-].[Na+] | InChI=1S/C7H7BrO2S.Na/c1-5-2-3-6(8)7(4-5)11(9)10;/h2-4H,1H3,(H,9,10);/q;+1/p-1
